US06518283B1
3-Amino-4-methoxy-3-cyclobutene-1,2-dione
3,4-Dimethoxy-3-cyclobutene-1,2-dione (1.3 g, 9.2 mmol) in of MeOH (10.0 ml) was treated with aqueous ammonia (10.0 ml of a 2.0M solution) and stirred at ambient temperature for 2 h. The yellow precipitate thus formed was recovered by filtration, washed with MeOH and Et2O and dried in vacuo to afford the title compound (0.87 g, 75%) as an amorphous yellow powder δH (d6 DMSO) 8.32 (2H, br s), 4.28 (3H, s). m/z (ES+, 70V) 127 (MH+).

reactant | 3,4-Dimethoxy-3-cyclobutene-1,2-dione | 9.2 mmol, 1.3 g | COC=1C(C(C1OC)=O)=O | C6H6O4
reactant | ammonia | N | H3N
solvent | MeOH | 10.0 ml | CO | CH4O
product | 3-Amino-4-methoxy-3-cyclobutene-1,2-dione | 0.87 g, 75% | NC=1C(C(C1OC)=O)=O | C5H5NO3
